US08012966B2
A stirred solution of 3-methyl-4-oxo-5-(2-pyrrolidin-1-yl-ethyl)-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine-2-carbaldehyde (81 mg, 0.79 mmol), 5-fluoro-1,3-dihydro-indol-2-one (44 mg, 0.79 mmol) in 0.48 ml of ethanol was added dropwise with anhydrous piperidine (0.06 ml). The mixture was stirred at room temperature overnight. The precipitate was filtered under reduced pressure, washed with anhydrous ethanol (0.2 ml×5) and purified by silica gel column chromatography with triethylamine:methanol:dichloromethane (1:20:500) as eluents to give 2-(5-fluoro-2-oxo-1,2-dihydro-indol-3-ylidenemethyl)-3-methyl-5-(2-pyrrolidin-1-yl-ethyl)-1,5,6,7-tetrahydro-pyrrolo[3,2-c]pyridin-4-one (24 mg, 7.4%) as a brown solid

reactant | 3-methyl-4-oxo-5-(2-pyrrolidin-1-yl-ethyl)-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine-2-carbaldehyde | 0.79 mmol, 81 mg | CC1=C(NC2=C1C(N(CC2)CCN2CCCC2)=O)C=O | C15H21N3O2
reactant | 5-fluoro-1,3-dihydro-indol-2-one | 0.79 mmol, 44 mg | FC=1C=C2CC(NC2=CC1)=O | C8H6FNO
reactant | piperidine | 0.06 ml | N1CCCCC1 | C5H11N
solvent | ethanol | 0.48 ml | C(C)O | C2H6O
product | 2-(5-fluoro-2-oxo-1,2-dihydro-indol-3-ylidenemethyl)-3-methyl-5-(2-pyrrolidin-1-yl-ethyl)-1,5,6,7-tetrahydro-pyrrolo[3,2-c]pyridin-4-one | 24 mg, 7.4% | FC=1C=C2C(C(NC2=CC1)=O)=CC1=C(C=2C(N(CCC2N1)CCN1CCCC1)=O)C | C23H25FN4O2
